US05663440
In a 2-liter four-necked flask equipped with a stirring device, a thermometer, a condenser and a nitrogen substituting device, 177.4 g of aluminum chloride and 300 milliliters of nitrobenzene were mixed and then 99.54 g of paranitrobenzoyl chloride was introduced with ice cooling to be dissolved. Then, a solution of 46.10 g of 1,4-bis(phenylmethyl)benzene in 100 milliliters of nitrobenzene was added dropwise for 30 minutes. 30 minutes after the end of the dropwise adding, an ice bath was removed and stirring was carried out at room temperature for 40 hours. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was poured on 1.5 liters of ice, and then extracted with 1.0 liter of chloroform. The solution was filtered through a Celite, washed with a 6N-HCl aqueous solution, an aqueous solution of sodium hydrogencarbonate, brine and water, removed off chloroform by a rotary evaporator, and thereafter removed off nitrobenzene by a steam distillation. By dissolving the solution in chloroform, purifying it with a silica gel column, and recrystallizing it from ethyl acetate, 35.72 g of 1,4-bis(4-(4-nitrobenzoyl)phenylmethyl)benzene was obtained as crystals.

reactant | aluminum chloride | 177.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | paranitrobenzoyl chloride | 99.54 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 1,4-bis(phenylmethyl)benzene | 46.10 g | C1(=CC=CC=C1)CC1=CC=C(C=C1)CC1=CC=CC=C1 | C20H18
solvent | nitrobenzene | 100 milliliters | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 300 milliliters | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,4-bis(4-(4-nitrobenzoyl)phenylmethyl)benzene | 35.72 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)CC2=CC=C(C=C2)CC2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C34H24N2O6
